US09062012B2
Synthesis of 2,2-difluoro-2-(5-fluoro-2-nitro-phenoxy)-N,N-dimethyl-acetamide
A mixture of 2-nitro-5-fluoro-phenol (3.0 g, 19.1 mmol), 2-bromo-2,2-difluoro-N,N-dimethylacetamide (3.9 g, 19.1 mmol) and Na2CO3 (2.1 g, 19.8 mmol) in 30 mL of DMAC was heated to 100° C. overnight. The mixture was then poured on 50 mL of H2O and extracted with TBME (2×50 mL). The combined organic layers were washed with 10% NaOH (50 mL) and dried over Na2SO4. The crude product was obtained after evaporation of all volatiles. Purification by chromatography on silica gave the product (1.8 g, 6.4 mmol, 38% yield) as a yellow oil that solidified upon standing.

reactant | 2-nitro-5-fluoro-phenol | 19.1 mmol, 3.0 g | [N+](=O)([O-])C1=C(C=C(C=C1)F)O | C6H4FNO3
reactant | 2-bromo-2,2-difluoro-N,N-dimethylacetamide | 19.1 mmol, 3.9 g | BrC(C(=O)N(C)C)(F)F | C4H6BrF2NO
reactant | Na2CO3 | 19.8 mmol, 2.1 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | H2O | 50 mL | O | H2O
solvent | DMAC | 30 mL | CC(=O)N(C)C | C4H9NO
product | 2,2-difluoro-2-(5-fluoro-2-nitro-phenoxy)-N,N-dimethyl-acetamide | 6.4 mmol, 1.8 g, 38% yield | FC(C(=O)N(C)C)(OC1=C(C=CC(=C1)F)[N+](=O)[O-])F | C10H9F3N2O4
